* C:\Users\Jacky\Desktop\fuck\LTspice\Project\二极管放大特性仿真\curvetrace.asc
* Generated by LTspice 24.1.9 for Windows.
Q1 N001 N002 0 0 2N2222
V1 N001 0 0.
I1 0 N002 0.
.model NPN NPN
.model PNP PNP
.lib C:\Users\Jacky\AppData\Local\LTspice\lib\cmp\standard.bjt
.dc V1 0 15 10m I1 20u 100u 20u
* This example schematic is supplied for informational/educational purposes only.
.backanno
.end
